US07399780B2
5-Pyridin-3-yl-1,3-dihydro-2H-indol-2-one
A mixture of 5-bromooxindole (0.95 g, 4.48 mmol), 3-(tri-n-butylstannyl)pyridine (1.65 g, 4.48 mmol), tetraethyl ammonium chloride (2.23 g, 13.4 mmol) and bis(triphenylphospine palladium (II) chloride (0.16 g, 0.22 mmol) in acetonitrile (20 mL) was heated at reflux over night. After cooling to ambient temperature the mixture was diluted with chloroform (100 mL) and a potassium fluoride solution (10%, 250 mL) was added. The mixture was filtered through Celite and the layers were separated. The organic layer was dried (Na2SO4) and the solvent was removed in vacuo. The residue was purified on a silica gel column using chloroform/ethanol, (50:1), as the eluent affording 165 mg (18% yield) of the title compound as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 9.64 (br s, 1 H), 7.97 (d, J=2 Hz, 1 H), 7.66 (dd, J=5, 1 Hz, 1 H), 7.21-7.10 (m, 1 H), 6.73 (s, 1 H), 6.73-6.65 (m, 1 H), 6.65-6.54 (m, 1 H), 6.08 (d, J=8 Hz, 1 H), 2.69 (s, 2 H); MS (ES) m/z 211 (M++1).

reactant | 5-bromooxindole | 4.48 mmol, 0.95 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 3-(tri-n-butylstannyl)pyridine | 4.48 mmol, 1.65 g | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
reactant | potassium fluoride | 250 mL | [F-].[K+]
catalyst | tetraethyl ammonium chloride | 13.4 mmol, 2.23 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | triphenylphospine palladium (II) chloride | 0.22 mmol, 0.16 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-Pyridin-3-yl-1,3-dihydro-2H-indol-2-one | 165 mg, 18% yield | N1=CC(=CC=C1)C=1C=C2CC(NC2=CC1)=O | C13H10N2O
